US05145986
Preparation of 2,2,2-Trifluoro-N-(p-chlorobenzyl)acetimidoyl chloride
A mixture N-(p-chlorobenzyl)-2,2,2-trifluoroacetamide (100.0 g, 0.421 mol) and phosphorus pentachloride (87.7 g, 0.421 mol) is heated to 100° C., stirred for two hours and vacuum distilled to obtain the title product as a clear colorless liquid (66.3 g, bp 110°-112° C./7.5 mm Hg).

reactant | N-(p-chlorobenzyl)-2,2,2-trifluoroacetamide | 0.421 mol, 100.0 g | ClC1=CC=C(CNC(C(F)(F)F)=O)C=C1 | C9H7ClF3NO
reactant | phosphorus pentachloride | 0.421 mol, 87.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2,2,2-Trifluoro-N-(p-chlorobenzyl)acetimidoyl chloride | 66.3 g | FC(C(=NCC1=CC=C(C=C1)Cl)Cl)(F)F | C9H6Cl2F3N
